US05346925
Dimethylsilylenebis(2-methyl-4,5,6,7-tetrahydroindenyl)zirconium dichloride was prepared by first synthesizing dimethylsilylenebis(2-methylindenyl)zirconium dichloride as in Example-A13, and the latter in an amount of 1.0 g was dissolved in 150 ml of dichloromethane and was introduced in an autoclave of 500 ml capacity in which it was reacted in the presence of 0.1 g of platinum oxide added with hydrogen under a pressure of 50 kg/cm2G at room temperature for 5 hours. The platinum oxide catalyst was then removed and the solvent used was removed in vacuo whereby a solid was obtained, which solid was extracted with toluene and recrystallization was conducted to give 0.32 g of dimethylsilylenebis(2-methyl-4,5,6,7-tetrahydroindenyl)zirconium dichloride desired.

reactant | dimethylsilylenebis(2-methylindenyl)zirconium dichloride | [Cl-].[Cl-].C[Zr](C1C(=CC2=CC=CC=C12)C)(C1C(=CC2=CC=CC=C12)C)(=[SiH2])C
reactant | hydrogen | [H][H] | H2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
catalyst | platinum oxide | 0.1 g | [Pt]=O
product | dimethylsilylenebis(2-methyl-4,5,6,7-tetrahydroindenyl)zirconium dichloride | 0.32 g | [Cl-].[Cl-].C[Zr](C1C(=CC=2CCCCC12)C)(C1C(=CC=2CCCCC12)C)(=[SiH2])C | InChI=1S/2C10H13.2CH3.2ClH.H2Si.Zr/c2*1-8-6-9-4-2-3-5-10(9)7-8;;;;;;/h2*6-7H,2-5H2,1H3;2*1H3;2*1H;1H2;/p-2
